US05668141
12a. 3-fluoro-4-pyridinecarboxylic acid t-butyl amide
Following the procedure of Gribble and Saulnier, Tetrahedron Lett., 21:4137-4140 (1980)) reacting 3-fluoropyridine (Aldrich) with LDA and reacting the 3-fluoro-4-lithiopyridine intermediate with t-butyl isocyanate, the title compound was prepared.

reactant | 3-fluoropyridine | FC=1C=NC=CC1 | C5H4FN
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | 3-fluoro-4-lithiopyridine | FC=1C=NC=CC1[Li]
reactant | t-butyl isocyanate | C(C)(C)(C)N=C=O | C5H9NO
product | 3-fluoro-4-pyridinecarboxylic acid t-butyl amide | C(C)(C)(C)NC(=O)C1=C(C=NC=C1)F | C10H13FN2O
